US07723369B2
5-{4-[2-[4-(5-Cyclohexyl-pyridin-2-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one (16 mg, 0.02 mmol) was treated as described in general procedure W using tetrabutylammonium fluoride (26 mg, 0.1 mmol) to give 5-{4-[2-[4-(5-cyclohexyl-pyridin-2-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1, 1-dioxide.

reactant | 5-{4-[2-[4-(5-Cyclohexyl-pyridin-2-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one | 0.02 mmol, 16 mg | C1(CCCCC1)C=1C=CC(=NC1)C1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)N2CC(N(S2(=O)=O)COCC[Si](C)(C)C)=O)C=C1 | C41H45Cl2N5O4SSi
reactant | tetrabutylammonium fluoride | 0.1 mmol, 26 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-{4-[2-[4-(5-cyclohexyl-pyridin-2-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1, 1-dioxide | C1(CCCCC1)C=1C=CC(=NC1)C1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)N2CC(NS2(=O)=O)=O)C=C1 | C35H31Cl2N5O3S
